US06933304B2
4′-Methyl-2′,6′-dioxo-1′,2′,3′,4′,5′,6′-hexahydro-[3,4′]bipyridinyl-3′,5′-dicarbonitrile
Cyanoacetamide was stirred with sodium ethoxide in ethanol for 30 minutes. 2-Cyano-3-pyridin-3-yl-but-2-enoic acid ethyl ester was added and allowed to sit for 16 hours. The solution was acidified to pH 4 and partially concentrated under reduced pressure, causing precipitation of product. The product was filtered and allowed to dry. MS (ESI+) for C13H10N4O2 m/z 255.2 (M+H)+.

reactant | Cyanoacetamide | C(#N)CC(=O)N | C3H4N2O
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | 2-Cyano-3-pyridin-3-yl-but-2-enoic acid ethyl ester | C(C)OC(C(=C(C)C=1C=NC=CC1)C#N)=O | C12H12N2O2
solvent | ethanol | C(C)O | C2H6O
product | 4′-Methyl-2′,6′-dioxo-1′,2′,3′,4′,5′,6′-hexahydro-[3,4′]bipyridinyl-3′,5′-dicarbonitrile | CC1(C(C(NC(C1C#N)=O)=O)C#N)C=1C=NC=CC1 | C13H10N4O2
